US08048909B2
5-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridine-2-carbonitrile hydrochloride
Under an argon atmosphere, a mixture of tert-butyl {[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate (100 mg), zinc (II) cyanide (51 mg), tetrakis(triphenylphosphine)palladium (50 mg) and N,N-dimethylformamide (4 mL) was stirred at 100° C. for 2 hr. The reaction mixture was diluted with ethyl acetate, and washed successively saturated aqueous sodium hydrogencarbonate solution, water and saturated brine. The mixture was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→7:3) to give N-Boc compound of the title compound. The obtained N-Boc compound was dissolved in ethyl acetate (2 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was crystallized from ethanol to give the title compound (yield 57 mg, 68%).

reactant | tert-butyl {[1-(6-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 100 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C22H24ClN3O4S
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc (II) cyanide | 51 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)pyridine-2-carbonitrile hydrochloride | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=CC(=NC1)C#N)C1=CC=CC=C1 | InChI=1S/C18H16N4O2S.ClH/c1-20-11-14-9-18(15-5-3-2-4-6-15)22(13-14)25(23,24)17-8-7-16(10-19)21-12-17;/h2-9,12-13,20H,11H2,1H3;1H
